US06727264B1
1-[2-(TRIFLUOROMETHYL)PHENYL]-1H-INDOLE:
Prepared by Procedure C and Scheme O using 1H-indole and 1-iodo-2-(trifluoromethyl)benzene: ESMS m/e: 262.0 (M+H)+.

reactant | 1H-indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 1-iodo-2-(trifluoromethyl)benzene | IC1=C(C=CC=C1)C(F)(F)F | C7H4F3I
product | 1-[2-(TRIFLUOROMETHYL)PHENYL]-1H-INDOLE | FC(C1=C(C=CC=C1)N1C=CC2=CC=CC=C12)(F)F | C15H10F3N
